US06706725B1
f) [(E)-5-(4-Bromo-2-thienyl)-1,1-diethylhept-4-enyloxy]triethylsilane
11.8 g (35.6 mmol) of (E)-7-(4-bromo-2-thienyl)-3-ethylnon-6-en-3-ol are dissolved in 150 mL of dichloromethane. 130 mg (1.1 mmol) of dimethylaminopyridine and 14.9 mL (107 mmol) of triethylamine are added. The reaction medium is cooled to 0° C. and 12.1 mL (53.4 mmol) of triethylsilyl trifluoromethanesulphonate are added dropwise. The medium is warmed to room temperature and stirred for 15 minutes, after which it is poured into 150 mL of water and extracted with dichloromethane. After chromatography on silica gel (eluent: heptane), the desired product is obtained in the form of a colourless oil (m=15 g; Y=100%).

reactant | (E)-7-(4-bromo-2-thienyl)-3-ethylnon-6-en-3-ol | 35.6 mmol, 11.8 g | BrC=1C=C(SC1)/C(=C/CCC(CC)(O)CC)/CC | C15H23BrOS
reactant | dimethylaminopyridine | 1.1 mmol, 130 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triethylamine | 107 mmol, 14.9 mL | C(C)N(CC)CC | C6H15N
reactant | triethylsilyl trifluoromethanesulphonate | 53.4 mmol, 12.1 mL | FC(S(=O)(=O)O[Si](CC)(CC)CC)(F)F | C7H15F3O3SSi
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | water | 150 mL | O | H2O
product | [(E)-5-(4-Bromo-2-thienyl)-1,1-diethylhept-4-enyloxy]triethylsilane | BrC=1C=C(SC1)/C(=C/CCC(O[Si](CC)(CC)CC)(CC)CC)/CC | C21H37BrOSSi
